Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Morphine / Latex
 
Attending: ___.
 
Chief Complaint:
body pain
 
Major Surgical or Invasive Procedure:
Femoral central venous catheter placement

 
History of Present Illness:
This is a ___ y.o. woman with history of sickle cell disease, 
history of PE and CVA on coumadin, borderline personality 
disorder with multiple psychiatric hospitalizations and possible 
seizure disorder who presents two days after having left AMA 
from ___ with multiple join and body pain.  Though pt did not 
initially report this history she later reported she had eloped 
from ___ ___ days before our arrival here where she had been 
admitted for worsening pain and low grade fevers.  She had been 
started on azithromycin for pneumonia and sore throat per her 
report.  Since she left AMA she did not go back to her group 
home but instead was on the street (unclear about the exact 
details of this story) until the day of presentation when she 
called ___ and reported her thoughts of self harm that she 
reports started because she was in pain.  When EMS was going to 
send an ambulance she reported she had no immediate plan to harm 
herself and volunteered to go to the ED on her own.  On arrival 
to our ED she did not endorse suicidality and instead reported 
her somatic complaints.  She reported that two days prior to 
arrival she had onset of total body pain, most marked around her 
joints.  She also noted continued low grade fever and throat 
pain that she reported she was in the midst of a course of 
azithromycim to treat.   Pain was apparently constant, severe, 
and not associated with movement.  Relief was only with 
analgesics.  She denied chills.  Additionally, she developed 
sharp left chest pain and left sided abdominal pain.  + nausea 
but no vomiting.  Denied jaundice, rashes, pale stools, 
diarrhea, and dark urine. 

Review of Systems:  
(+) Per HPI  
(-) Denies chills, night sweats, recent weight loss or gain. 
Denied blurry vision, new weakness, or difficulty speaking.  No 
headache, sinus tenderness, rhinorrhea or congestion. No 
palpitations or lower extremity edema. Denied wheezes. All other 
review of systems negative. 
 
Past Medical History:
1) Sickle cell (HbSS) disease with frequent hospitalizations for 
pain crisis and presumed autoinfarct of spleen 
2) Pulmonary embolus in ___  
3) CVA in ___ per report with residual left sided deficits
4) s/p acute chest syndrome requiring intubation in ___  
5) Asthma  
6) Borderline personality disorder/PTSD with history of suicidal 
ideation, past psychiatric hospitalizations  
7) Transfusion-related Hepatitis C  
8) s/p cholecystectomy  
9) Hx of seizure disorder-details unknown  
10) Hx of numerous port-a-cath placements  
11) Hx of coag-negative staph and MSSA line infections  
12) Hyperprolactinemia  
13) Hx of hemmorhage s/p TAB while on coumadin
 
Social History:
___
Family History:
Mother with sickle cell trait and father with sickle cell 
anemia.  Family hx also with HTN, hyperlipidemia, and diabetes 
mellitus type two.  
 
Physical Exam:
From ___ at 07:57 AM 
VS:  T 98.4 F, P 82, BP 106/70, RR 20, O2 97% on 3L
Appearance: Young woman in no apparent distress appearing her 
stated age
Eyes: EOMI, Conjunctiva Clear
ENT: Moist, no ulcers, erythema, or exudates
CV: Regular, normal S1 and S2, no murmurs rubs or gallops
Respiratory: Clear to auscultation bilaterally with diminished 
inspiratory efforts; No wheezes, rales, rhonchi appreciated; 
chest wall expansion symmetric
GI: Soft, tender to palpation in left upper quadrant without 
guarding or rebound; bowel sounds present; no hepatosplenomegaly 
appreciated
MSK: Tone and bulk within normal limits; upper and lower 
extremity strenght ___ and right upper and lower extremity exam 
___ no cyanosis, clubbing, or edema in lower extremities
Neuro: CNII-XII intact except for diminished sensation on L side 
of face; normal attention, Fluent speech
Integument:  Warm, dry, no rash appreciated
Psychiatric: Appropriate, very flat slightly odd affect, not 
agitated or combative

Discharge exam ___:
T 98.6, BP 96/52, HR 87, RR 18, 99% RA
Lying comfortably in bed, talking clearly, complete sentences,
easily distractable
HEENT:  Face symmetric, OP clear
Lungs CTA B
CV RRR without murmurs
Abdomen soft, NT, ND, NABS
Ext without edema

 
Pertinent Results:
===================
LABORATORY RESULTS
===================
On Admission:
WBC-6.8 RBC-1.82* Hgb-8.0* Hct-23.8* MCV-131*# RDW-17.2* Plt 
___
--Hypochr-NORMAL Anisocy-2+ Poiklo-2+ Macrocy-2+ Microcy-NORMAL 
Polychr-OCCASIONAL Schisto-NORMAL Tear ___ 
___ Ellipto-1+
___ PTT-26.6 ___
Glucose-94 UreaN-4* Creat-0.4 Na-139 K-5.5* Cl-105 HCO3-25 
LD(___)-633* TotBili-1.0

This AM:
WBC-5.2 RBC-1.82* Hgb-8.4* Hct-23.8* MCV-131* RDW-17.4* Plt 
___
Glucose-103* UreaN-3* Creat-0.4 Na-135 K-4.0 Cl-104 HCO3-25
ALT-62* AST-80* LD(___)-382* AlkPhos-353* TotBili-0.7

Troponin: <0.01--> <0.01

==============
OTHER STUDIES
==============
Chest Radiograph ___ (my read):
Low lung volumes with prominent vascular markings.  No acute 
infiltrate.  Suggestion of cardiomegaly.  

EKG ___ 20:25:
Sinus tachycardia at 106.  Nl axis.  LVH. Nonspecific ST changes 
throughout likely due to LVH.  ST depressions and TWI in V3 and 
V4 are somewhat more marked that in previous EKG from ___ 
but improved from earlier EKG from 19:43 likely due to strain in 
setting of tachycardia with hypertrophy.  

INR trend:
___
.
Discharge labs:

___ 06:35AM BLOOD WBC-6.1 RBC-1.76* Hgb-7.8* Hct-23.1* 
MCV-131* MCH-44.5* MCHC-34.0 RDW-17.2* Plt ___
___ 06:35AM BLOOD ___ PTT-37.0* ___
 
Brief Hospital Course:
This is a ___ year old woman with sickle cell disease, PE and CVA 
(on chronic coumadin)and severe borderline personality disorder 
presenting with diffuse pain for the past ___ days. 
Acute issues:

1. Sickle cell crisis, with tachycardia and borderline 
hypoxemia:  On presentation the patient had a modestly elevated 
LDH and a somewhat lower Hct than baseline without any discrete 
local findings.  This was felt likely to be due to sickle cell 
crisis.  Presumed etiology was dehydration (given also with 
sinus tach and signs of dehydration) possibly exacerbated by a 
viral or other illness.  She was treated with fluids and oxygen 
and LDH fell steadily.  Fluids were stopped 24 hrs before 
discharge and she was encouraged to take PO foods with 
stability.  Hct stabilized and LDH in range of her best values 
here (mid ___.  She also had transient tachycardia and 
hypoxemia, as well as atypical chest pain, with no evidence of 
chest crisis.   

2. Diffuse Pain The patient reported diffuse pain on 
presentation presumed due to sickling in the context of 
dehydration.  This stabilized and improved slightly though 
continued to be significant, but patient does have chronic pain 
as noted by her long term opiate therapy. She had no signs of 
discrete arthritis or lesions.  She was initially treated on IV 
hydromorphone and reported severe pain but was quite somnolent.  
Therefore, she was treated back to oral hydromorphone regimen 
and pain manageable at time of discharge.  Her hydroxyurea was 
continued throughout admission.  Oral hydromorphone was 
increased relative to home doses for 1 week after discharge.  

3. Low grade fever: Pt had a low grade fever in the hospital but 
CXR without infiltrate and no clear localizing source of 
infection.  Blood cultures remained negative.  The patient had 
started a course of azithromycin prior to admission for ? 
pneumonia at that outside hospital and this was continued.  
Course was finished on ___ as this was at least day five 
of azithromycin treatment and the patient was discharged with 
her course completed.  If was felt far more likely patient 
actually had a viral infection but antibiotic course completed 
given vulnerability to infection in sickle cell patients with 
azithromycin. 

4. Abdominal Pain: The patient presented with abdominal pain in 
the context of her diffuse pain.  She was mildly tender but had 
no nausea or vomiting, was able to tolerate food, and initially 
refused RUQ U/S.  As she improved and this seemed to trend with 
her general pain picture as well as the fact LFT's improved RUQ 
was deferred.

5. Severe borderline personality disorder: Per previous psych 
notes pt with long history of severe affective instability, 
chronic compulsion to self harm, and occasional violent or 
aggressive outbursts.  Patient has been living in medical/mental 
health group home (___) recently but they did not know 
where she had gone when she eloped from ___.  On night of ___ 
patient called ___ to report thoughts of self harm (but 
had not reported this to anyone in the hospital).   ___ 
called our nursing station and nocturnist was informed who went 
and spoke to the patient who denied any desire to self harm but 
reports that she has thoughts of self harm when she is in pain 
or distress (consistent to what reported in psychiatry note of 
___.  She similarly denied any acute desire or plan to 
harm herself to her primary MD the following morning.  She was 
not felt to be actively suicidal.  Her behavioral and emotional 
lability actually seemed under relatively good control during 
this hospitalization.  Prior to discharge conversation was had 
with the staff of her group home who indicated she was close to 
her baseline.

Chronic issues:

1. History of PE/ CVA: She had no acute neurological changes.  
PE was entertained as a diagnosis of PE but thought extremely 
unlikely for reasons noted in discussion of that problem.  She 
was continued on coumadin and INR was therapeutic throughout her 
hospitalization.  INR 3.0 on admission, 3.3 on discharge.

2. Chronic stable asthma: No signs of acute reactive airway 
disease worsening.  She was continued on fluticasone.  

3.  GERD: She was continued on home omeprazole

4. Seizure disorder: She was continued on her home phenytoin for 
seizure disorder.

TRANSITIONAL ISSUES
====================
She needs follow up with Dr. ___ at ___.
She will need an INR check in 1 week, as slightly 
supratherapeutic at discharge.

 
Medications on Admission:
Hydroxyurea 500 mg Cap 2 Capsule(s) by mouth once a day
Hydromorphone 8 mg Tab 1 Tablet(s) by mouth every 4 hours as 
needed for pain
Hydroxyzine 50 mg Tab 1 Tablet(s) by mouth every 6 hours as 
needed for itching
Warfarin 5 mg Tab 1 Tablet(s) by mouth at bedtime
Gabapentin 300 mg Cap 1 Capsule(s) by mouth at bedtime
Folic Acid 1 mg Tab 1 Tablet(s) by mouth once a day
Ranitidine 150 mg Cap 1 Capsule(s) by mouth twice a day
morphine ER 30 mg Tab Oral 1 Tablet Extended Release(s) Three 
times daily
gabapentin 300 mg Tab Oral 1 Tablet(s) Twice Daily
acetaminophen 500 mg Tab Oral 1 Tablet(s) Every ___ hrs, as 
needed
Exjade 500 mg Tab Oral 2 Tablet, Dispersible(s) Once Daily
Flovent HFA 110 mcg/Actuation Aerosol Inhaler Inhalation 2 
Aerosol(s) Twice Daily
Dilantin Extended 100 mg Cap Oral 2 Capsule(s) Twice Daily
Celexa 20 mg Tab Oral 1 Tablet(s) Once Daily
Remeron 15 mg Tab Oral 1 Tablet(s) Once Daily
Risperdal 1 mg Tab Oral 1 Tablet(s) Twice Daily
omeprazole 20 mg Tab, Delayed Release Oral 1 Tablet, Delayed 
Release (E.C.)(s) Once Daily
Colace 100 mg Cap Oral 1 Capsule(s) Twice Daily
Dulcolax 10 mg Rectal Suppository Rectal 1 Suppository(s) QOD, 
as needed
Miralax 17 gram/dose Oral Powder Oral 1 Powder(s) , as needed
lactulose 20 gram Oral Packet Oral 2 tablespoons Packet(s) Four 
times daily, as needed
prochlorperazine maleate 5 mg Tab Oral 1 Tablet(s) Every ___ 
hrs, as needed
Coumadin 7.5 mg Tab Oral 1 Tablet(s) Once Daily ___ only
amitriptyline 10 mg Tab Oral 1 Tablet(s) Once Daily
azithromycin 250 mg Tab Oral 1 Tablet(s) Once Daily x 4 days
 

 
Discharge Medications:
1. hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
2. hydroxyzine HCl 50 mg Tablet Sig: One (1) Tablet PO twice a 
day as needed for itching.
Disp:*15 Tablet(s)* Refills:*0*
3. warfarin 5 mg Tablet Sig: One (1) Tablet PO 6 days per week: 
Every day except ___.  
4. mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime). Tablet(s) 
5. gabapentin 300 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
6. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day) as needed for heartburn.  
8. morphine 30 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO Q8H (every 8 hours).  
9. Exjade 500 mg Tablet, Dispersible Sig: Two (2) Tablet, 
Dispersible PO daily ().  
10. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
11. phenytoin sodium extended 100 mg Capsule Sig: Two (2) 
Capsule PO BID (2 times a day).  
12. citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. risperidone 1 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
14. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
15. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
16. bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
HS (at bedtime) as needed for constipation.  
17. amitriptyline 10 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
18. lactulose 20 gram Packet Sig: One (1) packet PO twice a day 
as needed for constipation.  
19. prochlorperazine maleate 5 mg Tablet Sig: One (1) Tablet PO 
every six (6) hours as needed for nausea.  
20. Dilaudid 4 mg Tablet Sig: Three (3) Tablet PO every four (4) 
hours as needed for pain for 1 weeks.
Disp:*40 Tablet(s)* Refills:*0*
21. Coumadin 7.5 mg Tablet Sig: One (1) Tablet PO once a week: 
___ only.  
22. Nasal Moisturizing 0.65 % Aerosol, Spray Sig: One (1) spray 
Nasal twice a day as needed.  
23. Artificial Tears  Ophthalmic
24. Tylenol Extra Strength 500 mg Tablet Sig: One (1) Tablet PO 
every four (4) hours as needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
Sickle cell anemia with crisis

Secondary Diagnoses:
Chronic pain
seizure disorder
Borderline personality disorder.  
History of DVT and CVA
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with diffuse pain likely due to a viral 
illness as well as anemia and dehydration.  You were treated 
with fluids and improved.  You are now ready to return home.  

Please continue to take your medications as previously 
prescribed except as below.
.
Medication changes:
INCREASE DOSE:
Increase Hydromorphone (dilaudid) to 12 mg every four hours as 
needed for the next 1 week.  

DISCONTINUE:
Stop the miralax per your request.
No other medication changes.
 
Followup Instructions:
___